US04478838
(a) 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(ethylaminocarbonyl)ethyl]piperazine
17.19 g of 3,4,5-trimethoxycinnamoyl chloride and 6.78 g of triethylamine are added with ice cooling to a solution of 9.54 g of 1-[1-(ethylaminocarbonyl)ethyl]piperazine in 200 ml of chloroform, and the resulting solution is kept standing at room temperature for 1 hour.

reactant | 3,4,5-trimethoxycinnamoyl chloride | 17.19 g | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
reactant | triethylamine | 6.78 g | C(C)N(CC)CC | C6H15N
reactant | 1-[1-(ethylaminocarbonyl)ethyl]piperazine | 9.54 g | C(C)NC(=O)C(C)N1CCNCC1 | C9H19N3O
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(3,4,5-Trimethoxycinnamoyl)-4-[1-(ethylaminocarbonyl)ethyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)C(C)C(=O)NCC)C=C(C1OC)OC | C21H31N3O5
